US05576313
Step 2: Preparation of N-t-butoxycarbonyl-4-(2-methylbenzyl)isonipecotic acid methyl ester
N-t-butoxycarbonyl isonipecotic acid methyl ester was transformed utilizing the alkylation procedure as described in Example 1, Step 3 substituting lithium diisopropylamide as the base to afford the product as a yellow syrup.

reactant | N-t-butoxycarbonyl isonipecotic acid methyl ester | COC(C1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H21NO4
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
product | N-t-butoxycarbonyl-4-(2-methylbenzyl)isonipecotic acid methyl ester | COC(C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=C(C=CC=C1)C)=O | C20H29NO4
